US08357694B2
(S)-6-(2-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=143-145° C. 1H NMR (DMSO) 400 MHz δ 9.67 (s, 1H), 8.36-8.32 (m, 1H), 8.30 (s, 1H), 7.82-7.78 (m, 2H), 7.54-7.43 (m, 3H), 7.27-7.22 (m, 3H), 7.18-7.13 (m, 1H), 7.00 (d, J=7.6 Hz, 1H), 6.79-6.75 (m, 1H), 4.78 (t, J=6.0 Hz, 1H), 3.86-3.70 (m, 5H), 3.69-3.24 (m, 12H), 3.22-3.09 (m, 2H), 3.07-2.98 (m, 2H). LCMS 554 [M+H]. Calc. for C33H36ClON5.3.07 Hydrochloric acid.0.34 Ethyl Acetate.0.04 Water: C, 59.23; H, 6.06; N, 10.05. Found C, 59.17; H, 6.05; N, 10.05.

reactant | (S)-4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@H](CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | 2-(4-(2-methoxyethyl)piperazin-1-yl)ethanamine | COCCN1CCN(CC1)CCN | C9H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(2-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)[C@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H36ClN5O.ClH/c1-40-21-20-39-18-16-38(17-19-39)15-14-24-10-12-26(13-11-24)36-33-35-23-25-22-30(28-7-4-5-9-31(28)34)27-6-2-3-8-29(27)32(25)37-33;/h2-13,23,30H,14-22H2,1H3,(H,35,36,37);1H/t30-;/m0./s1
